US07265115B2
tert-butyl (1S,4S)-5-[6-chloro-5-(methoxycarbonyl)-3-pyridazinyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
Methyl 3,6-dichloropyridazine-4-carboxylate and tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate, prepared as described in (J. Med. Chem., (1988) 31, 1598-1611), were processed as described in Example 2A to provide the title compound (41% yield). 1H NMR (CDCl3, 300 MHz) δ 1.42 (s, 4.5H), 1.47 (s, 4.5H), 1.90-2.11 (m, 2H), 2.86 (d, J=9.93 Hz, 1H), 3.40-3.62 (m, 2H), 3.72 (d, J=9.90 Hz, 1H), 3.93 (s, 3H), 3.51 (s, 0.5H), 4.63 (s, 0.5H), 5.05-5.15 (m, 1H), 7.49 (s, 1H); MS (DCI/NH3) m/z 368 (M+H)+.

reactant | Methyl 3,6-dichloropyridazine-4-carboxylate | ClC=1N=NC(=CC1C(=O)OC)Cl | C6H4Cl2N2O2
reactant | tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
product | tert-butyl (1S,4S)-5-[6-chloro-5-(methoxycarbonyl)-3-pyridazinyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 41% yield | ClC1=C(C=C(N=N1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C)C(=O)OC | C16H21ClN4O4
